US08026257B2
(±)-5-Chloro-2-methyl-7-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-2H-indazole.
(±)-tert-Butyl 4-((1-(5-chloro-1-methyl-1H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate (27 mg, 0.06 mmol) was treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvent was evaporated to afford 18 mg (79%) as a clear oil. 1H-NMR (CDCl3, 500 MHz) δ 7.86 (s, 1H), 7.54 (d, J=1.8 Hz, 1H), 7.28-7.32 (m, 4H), 7.19-7.23 (m, 1H), 7.10 (d, J=1.8 Hz, 1H), 4.74 (q, J=6.4 Hz, 1H), 3.97 (s, 3H), 3.36 (d, J=9.2 Hz, 1H), 3.23 (d, J=9.2 Hz, 1H), 2.87-2.89 (m, 2H), 2.70-2.76 (m, 2H), 2.13-2.16 (m, 2H), 1.83-1.90 (m, 2H), 1.44 (d, J=6.4 Hz, 3H); 13C-NMR (126 MHz, CDCl3) δ ppm 144.1, 136.3, 132.5, 128.4, 128.3, 127.2, 126.8, 126.2, 126.1, 125.2, 119.4, 78.2, 42.7, 41.8, 39.9, 33.6, 33.4, 23.4. Mass spec.: 384.17 (MH)+.

reactant | (±)-tert-Butyl 4-((1-(5-chloro-1-methyl-1H-indazol-7-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.06 mmol, 27 mg | ClC=1C=C2C=NN(C2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C | C27H34ClN3O3
reactant | trifluoroacetic acid methylene chloride | 2 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | (±)-5-Chloro-2-methyl-7-(1-((4-phenylpiperidin-4-yl)methoxy)ethyl)-2H-indazole | ClC1=CC2=CN(N=C2C(=C1)C(C)OCC1(CCNCC1)C1=CC=CC=C1)C | C22H26ClN3O
